US05585394
A) 5-Ethoxy-1,3-dihydro-1-(2-methoxy-4-nitrobenzenesulfonyl)-3-(pyrid-2-yl)-2H-benzimidazol-2-one
This compound is prepared by the procedure described in EXAMPLE 37 step A) starting from 1 g of 5- ethoxy-1,3-dihydro-3-(pyrid-2-yl)-2H-benzimidazol-2-one and 1.2 g of 2-methoxy-4-nitrobenzenesulfonyl chloride. 1.2 g of the expected product are obtained after crystallization from iso ether. M.p.=175° C.

reactant | 5- ethoxy-1,3-dihydro-3-(pyrid-2-yl)-2H-benzimidazol-2-one | 1 g | C(C)OC1=CC2=C(NC(N2C2=NC=CC=C2)=O)C=C1 | C14H13N3O2
reactant | 2-methoxy-4-nitrobenzenesulfonyl chloride | 1.2 g | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO5S
product | 5-Ethoxy-1,3-dihydro-1-(2-methoxy-4-nitrobenzenesulfonyl)-3-(pyrid-2-yl)-2H-benzimidazol-2-one | 1.2 g | C(C)OC1=CC2=C(N(C(N2C2=NC=CC=C2)=O)S(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])OC)C=C1 | C21H18N4O7S
